US07517987B2
Step B: (S)-2-(2-Oxo-2H-pyridin-yl)-propionic Acid
A stirred mixture of (S)-2-(2-Oxo-2H-pyrid-1-yl)-propionic acid ethyl ester (364 mg, 1.87 mmol), THF (2 ml), water (1 ml) and sodium hydroxide (90 mg, 2.24 mmol) was kept at room temperature for 1 h, then concentrated under reduced pressure. The residue was dissolved in ether and the resulting solution washed with water. The organic layer was discarded and the aqeous layer was acidified with concentrated HCl then extracted several times with ethyl acetate. The combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was triturated with ether to afford the title compound as a colorless solid (84 mg, 27%): [α]31D=−50° (c=0.2, CH3OH) 1H NMR (400 MHz, DMSO) δ 1.5 3H, d), 5.1 1H, q), 6.2 1H, t), 6.4 1H, d), 7.4 1H, m), 7.6 1H, d).

reactant | (S)-2-(2-Oxo-2H-pyrid-1-yl)-propionic acid ethyl ester | 1.87 mmol, 364 mg | C(C)OC([C@H](C)N1C(C=CC=C1)=O)=O | C10H13NO3
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 2.24 mmol, 90 mg | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | (S)-2-(2-Oxo-2H-pyridin-yl)-propionic Acid | 84 mg, 27% | O=C1NC=CC=C1[C@@H](C(=O)O)C | C8H9NO3
